US08865682B2
To a solution of 5,6-difluorooxindole (450 mg, 2.66 mmol) in THF (20 mL) at 0° C., was added 1 M LiHMDS in THF (5.3 mL, 5.3 mmol). The reaction mixture was stirred at 0° C. for 10 minutes. 4-bromo-5,5-dimethyl-5H-furan-2-one (340 mg, 1.78 mmol) was then added. The reaction mixture was stirred at 0° C. for 30 min., and then at room temperature for an additional 30 min and quenched with 2.5M aqueous H2SO4 (3 mL). The resulting mixture was stirred at room temperature for 16 hours and poured into water (100 mL). The precipitates were filtered, washed with water and dried in vacuo to yield (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-5,6-difluoro-1,3-dihydro-2H-indol-2-one as yellow solid. Yield: 547 mg, 90%.

reactant | 5,6-difluorooxindole | 2.66 mmol, 450 mg | FC=1C=C2CC(NC2=CC1F)=O | C8H5F2NO
reactant | LiHMDS | 1 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-bromo-5,5-dimethyl-5H-furan-2-one | 1.78 mmol, 340 mg | BrC1=CC(OC1(C)C)=O | C6H7BrO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5.3 mmol, 5.3 mL | C1CCOC1 | C4H8O
product | (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-5,6-difluoro-1,3-dihydro-2H-indol-2-one | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC(=C(C=C12)F)F)=O | C14H10BrF2NO2
